US08802690B2
Add carbonyl diimidazole (567 mg, 3.50 mmol) to a solution of methyl 4-amino-3-(methylamino)benzoate (586 mg. 3.19 mmol) in tetrahydrofuran (20 mL) at room temperature. Stir the yellow solution at room temperature for 16 hours. Add carbonyl diimidazole (500 mg, 0.96). Stir at room temperature for 4 hours. Add ethyl acetate (75 mL). Wash with 10% citric acid (5 mL), 1N sodium hydroxide (5 mL), and brine (5 mL). Dry the organics over magnesium sulfate, filter, concentrate, and dry under high vacuum to yield a crude yellow solid (690 mg, 100%). Triturate this crude solid with ethyl acetate (10 mL). Filter the precipitate and dry under high vacuum to yield methyl 3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-5-carboxylate (422 mg, 64%). 1H NMR (400 MHz, CDCl3) δ ppm 3.46 (s, 3H), 3.92 (s, 3H), 7.12 (d, J=8.21 Hz, 1H), 7.68 (s, 1H), 7.84 (dd, J=8.31, 1.47 Hz, 1H), 9.87-10.03 (m, 1H).

reactant | carbonyl diimidazole | 3.50 mmol, 567 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | methyl 4-amino-3-(methylamino)benzoate | 3.19 mmol, 586 mg | NC1=C(C=C(C(=O)OC)C=C1)NC | C9H12N2O2
reactant | carbonyl diimidazole | 500 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | methyl 3-methyl-2-oxo-2,3-dihydro-1H-benzo[d]imidazole-5-carboxylate | 422 mg, 64% | CN1C(NC2=C1C=C(C=C2)C(=O)OC)=O | C10H10N2O3
